US08008298B2
2,2-Dimethyl-1-[2-(3-trimethylsilanyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (250 mg, 0.71 mmol) was suspended in 7 ml of methylene chloride and potassium carbonate (393 mg, 2.8 mmol) was added. The flask was wrapped in aluminum foil and iodine monochloride (2.5 ml of a 1M solution in methylene chloride) was added dropwise. The mixture was stirred in the dark at room temperature for one hour. The reaction was quenched with 10% aqueous sodium thiosulfate, extracted into methylene chloride, and washed with water two times. The organic layer was dried with sodium sulfate, concentrated, triturated with ethyl ether, filtered and dried in a vacuum oven to give 232 mg (81%) of 1-[2-(3-iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2,-dimethyl-propan-1-one as a yellow solid. (M+H)+=406.

reactant | 2,2-Dimethyl-1-[2-(3-trimethylsilanyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.71 mmol, 250 mg | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)[Si](C)(C)C)(C)C | C20H25N3OSi
reactant | potassium carbonate | 2.8 mmol, 393 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodine monochloride | ICl | ClI
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | aluminum | [Al] | Al
product | 1-[2-(3-iodo-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2,-dimethyl-propan-1-one | 232 mg, 81% | IC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H16IN3O
